US08492378B2
methyl 3-[4-(trifluoromethoxy)phenyl]-1-benzofuran-5-carboxylate
In the same manner as in Reference Example 19 and using methyl 3-bromo-1-benzofuran-5-carboxylate instead of methyl 3-iodoimidazo[1,2-a]pyridine-6-carboxylate and [4-(trifluoromethoxy)phenyl]boronic acid instead of (4-methoxyphenyl)boronic acid, the title compound (yield 74%) was obtained as colorless crystals.

reactant | methyl 3-bromo-1-benzofuran-5-carboxylate | BrC1=COC2=C1C=C(C=C2)C(=O)OC | C10H7BrO3
reactant | [4-(trifluoromethoxy)phenyl]boronic acid | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
product | methyl 3-[4-(trifluoromethoxy)phenyl]-1-benzofuran-5-carboxylate | yield 74% | FC(OC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C(=O)OC)(F)F | C17H11F3O4
